US07825120B2
3-Acetylbenzoic acid (1.64 g, 10.0 mmol), 1-tert-butoxycarbonylpiperazine (2.23 g, 12.0 mmol), HATU (4.56 g, 12.0 mmol) and HOAT (1.63 g, 12.0 mmol) were dissolved in 20 mL anhydrous DMF in a 100 mL round-bottom flask under a positive pressure of N2 in an ice bath. DIPEA (3.8 mL, 22.0 mmol) was added and the mixture stirred at ambient temperature for 2 h. The solution was diluted with 100 mL of EtOAc and washed with 40 mL each: 0.2 N NaOH solution once and saturated NaCl solution twice. The organic layer was dried over Na2SO4, filtered, concentrated and purified by silica gel chromatography using EtOAc-hexanes (2:1 v/v) as the eluant to give tert-butyl 4-(3-acetylbenzoyl)piperazine-1-carboxylate as 2.97 g of white solid.

reactant | 3-Acetylbenzoic acid | 10.0 mmol, 1.64 g | C(C)(=O)C=1C=C(C(=O)O)C=CC1 | C9H8O3
reactant | 1-tert-butoxycarbonylpiperazine | 12.0 mmol, 2.23 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | HATU | 12.0 mmol, 4.56 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOAT | 12.0 mmol, 1.63 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DIPEA | 22.0 mmol, 3.8 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | N2 | N#N | N2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 4-(3-acetylbenzoyl)piperazine-1-carboxylate | C(C)(=O)C=1C=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C18H24N2O4
